US09428490B2
1-Benzhydrylazetidin-3-one (5.0 g, 1.0 eq.) was dissolved in THF (50 mL). Trifluoromethyl trimethylsilane was added at 5-10° C. The reaction mixture was stirred at 10° C. for 10 min. Tetrabutyl ammonium fluoride was then added. The reaction mixture was allowed to warm to room temperature and stirred for 1 h. The reaction mixture was diluted with ethyl acetate, and washed with water and brine. The organic layer was dried over sodium sulfate and concentrated under reduced pressure to give the crude product, which was purified by chromatography (6% ethyl acetate-hexane) to give 3 g of 1-benzhydryl-3-(trifluoromethyl)azetidin-3-ol (Yield: 46.32%).

reactant | 1-Benzhydrylazetidin-3-one | 5.0 g, 1.0 eq. | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CC(C1)=O | C16H15NO
reactant | Trifluoromethyl trimethylsilane | FC(F)(F)[Si](C)(C)C | C4H9F3Si
reactant | Tetrabutyl ammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-benzhydryl-3-(trifluoromethyl)azetidin-3-ol | 3 g, Yield: 46.32% | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CC(C1)(O)C(F)(F)F | C17H16F3NO
